US09422312B2
Step 1: Methyl[(4-methylbenzenesulfonyl)imino]pyrrolidin-1-yl-λ6-sulfanone
Pyrrolidine (1.53 mL) is added drop wise to N-(4-methylbenzenesulfonyl)methylsulfonimidoyl chloride (5.00 g) in dichloromethane (10 mL) at 0° C. and the resulting mixture is allowed to warm to room temperature overnight. The reaction mixture is diluted with dichloromethane, hydrochloric acid (1 N; 10 mL) is added, and the mixture is stirred for 0.5 h at room temperature. The organic phase is separated, washed with aqueous NaHCO3 solution and water, dried over MgSO4, and concentrated in vacuo. The residue is chromatographed on silica gel (ethyl acetate/methanol 100: 080:20) to give the title compound. LC (method 1): tR=0.88 min; Mass spectrum (ESI+): m/z=303 [M+H]+.

reactant | Pyrrolidine | 1.53 mL | N1CCCC1 | C4H9N
reactant | N-(4-methylbenzenesulfonyl)methylsulfonimidoyl chloride | 5.00 g | CC1=CC=C(C=C1)S(=O)(=O)N=S(=O)(C)Cl | C8H10ClNO3S2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | hydrochloric acid | 1 N, 10 mL | Cl | ClH
product | Methyl[(4-methylbenzenesulfonyl)imino]pyrrolidin-1-yl-λ6-sulfanone | CS(=O)(N1CCCC1)=NS(=O)(=O)C1=CC=C(C=C1)C | C12H18N2O3S2
